US06211177B1
2-[5-Fluoro-2-(3,4,5-Trimethoxyphenyl) Benzimidazolyl]Acetic Acid
A mixture of ethyl 2-[5-Fluoro-2-(3,4,5-trimethoxyphenyl)benzimidazolyl]acetate (11.99 mmole, 4.65 g) and potassium hydroxide (40 mmole, 2.24 g) in ethanol (80 ml) is stirred at reflux for 2 hours. The solvent is evaporated and the residue is charged with water (100 ml) and ether (100 ml). The aqueous layer is washed with ether (2×50 ml) and charged with concentrated HCl (pH 1). After 24 hours the colorless precipitate is filtered off and dried in vacuo (R1=(CH2)x—C(O)—OR4, x=1, R2=3,4,5-trimethoxyphenyl, R3=F, R4=hydrogen, n=1).

reactant | ethyl 2-[5-Fluoro-2-(3,4,5-trimethoxyphenyl)benzimidazolyl]acetate | 11.99 mmole, 4.65 g | FC1=C(C2=C(N=C(N2)C2=CC(=C(C(=C2)OC)OC)OC)C=C1)CC(=O)OCC | C20H21FN2O5
reactant | potassium hydroxide | 40 mmole, 2.24 g | [OH-].[K+]
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 2-[5-Fluoro-2-(3,4,5-Trimethoxyphenyl) Benzimidazolyl]Acetic Acid | FC1=C(C2=C(N=C(N2)C2=CC(=C(C(=C2)OC)OC)OC)C=C1)CC(=O)O | C18H17FN2O5
